US09290517B2
Step A: 2-[[2-[[(3R,3aR,6R,6aR)-3-methoxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-6-yl]oxy]-6-chloro-5-(4-phenylphenyl)imidazo[4,5-b]pyridin-1-yl]methoxy]ethyl-trimethyl-silane
Iodomethane (40 μl, 0.640 mmol) and sodium hydride (7.7 mg, 0.193 mmol) were added to a stirred solution of (3R,3aR,6R,6aR)-6-[6-chloro-5-(4-phenylphenyl)-1-(2-trimethylsilylethoxymethyl)imidazo[4,5-b]pyridin-2-yl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-ol (35.6 mg, 0.061 mmol) in DMF (0.2 ml). The reaction mixture was stirred at room temperature for 4 hours. The reaction mixture was then partitioned between EtOAc (40 ml), water (10 ml), and 2 N HCl (10 ml). The organic layer was washed with water (2×20 ml) and brine (1×10 ml), dried over MgSO4, filtered, and evaporated under reduced pressure to give a pale amber residue. The residue was dissolved in EtOAc and loaded onto a 500 micron 20 cm×20 cm silica gel plate, which was developed using 70% EtOAc/hexane. The silica containing the product bands was collected and eluted with EtOAc (80 ml). The solvent was evaporated under reduced pressure to give the desired product as a colorless residue. LC-MS: calculated for C31H36ClN3O5Si 593.21 observed m/e: 594.24 (M+H)+ (Rt 1.40/2 min)

reactant | Iodomethane | 0.640 mmol, 40 μl | IC | CH3I
reactant | sodium hydride | 0.193 mmol, 7.7 mg | [H-].[Na+]
reactant | (3R,3aR,6R,6aR)-6-[6-chloro-5-(4-phenylphenyl)-1-(2-trimethylsilylethoxymethyl)imidazo[4,5-b]pyridin-2-yl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-ol | 0.061 mmol, 35.6 mg | ClC=1C=C2C(=NC1C1=CC=C(C=C1)C1=CC=CC=C1)N=C(N2COCC[Si](C)(C)C)O[C@@H]2CO[C@H]1[C@@H]2OC[C@H]1O | C30H34ClN3O5Si
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
solvent | DMF | 0.2 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-[[2-[[(3R,3aR,6R,6aR)-3-methoxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-6-yl]oxy]-6-chloro-5-(4-phenylphenyl)imidazo[4,5-b]pyridin-1-yl]methoxy]ethyl-trimethyl-silane | CO[C@H]1[C@@H]2[C@H](OC1)[C@@H](CO2)OC=2N(C=1C(=NC(=C(C1)Cl)C1=CC=C(C=C1)C1=CC=CC=C1)N2)COCC[Si](C)(C)C | C31H36ClN3O5Si
